data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_317605_0,[C:1](/[C:3]([C:2]([H:13])([H:14])[H:15])=[N:6]\[H:12])([N:4]([H:8])[H:9])([N:5]([H:10])[H:11])[H:7]>>[C:1]1([N:4]([H:8])[H:9])([N:5]([H:10])[H:11])[C@:3]([C:2]([H:13])([H:14])[H:15])([H:7])[N:6]1[H:12],55.99119749999304
MR_185186_0,[C:1](/[N:7]=[C:4](/[C:2]([H:14])([H:15])[H:16])[N:3]([O:5][H:9])[N:6][N:8][H:10])([H:11])([H:12])[H:13]>>[C:1]([N:7](/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:3]/[O:5][H:9])[N:6][N:8][H:10])([H:11])([H:12])[H:13],48.39279999998709
MR_82469_0,[C:1]([O:5][O:4][C:2]([N:3]([H:7])[H:8])=[O:6])([H:9])([H:10])[H:11]>>[C:1]([O:5][O:6][C:2]([N:3]([H:7])[H:8])=[O:4])([H:9])([H:10])[H:11],54.35405000002447
MR_203663_0,[C:1](/[N:8]=[C:3]([N:5]([H:10])[H:11])/[C:6](=[C:4](\[C:2]([H:16])([H:17])[H:18])[O:7][H:9])[H:12])([H:13])([H:14])[H:15]>>[C:1]([N:8]1[C:3]([N:5]([H:10])[H:11])=[C:6]([H:12])[C@@:4]1([C:2]([H:16])([H:17])[H:18])[O:7][H:9])([H:13])([H:14])[H:15],40.33632749999626
MR_573885_1,[C:1]([C:2]([H:15])([H:16])[H:17])([N:4]([O:8][H:9])[H:10])(/[C:5]([C:3]([H:18])([H:19])[H:20])=[C:7](/[N:6]([H:12])[H:13])[H:14])[H:11]>>[C:1](\[C:2]([H:15])([H:16])[H:17])(=[C:5](/[C:3]([H:18])([H:19])[H:20])[C:7]([N:4]([O:8][H:9])[H:10])([N:6]([H:12])[H:13])[H:14])[H:11],60.16030749998947
MR_123922_1,[C:1]([C:3]([C:2](=[C:4]([H:15])[H:17])[H:11])([H:13])[H:14])(/[C:5]([O:6][H:16])=[N:8]\[H:12])([O:7][H:9])[H:10]>>[C:1]1([O:7][H:9])([H:10])[C:3]([H:13])([H:14])[C:2]([C:4]([H:15])([H:16])[H:17])([H:11])[O:6]/[C:5]1=[N:8]/[H:12],54.87550249999202
MR_222962_0,[C:1](\[N:2]([H:8])[H:9])(=[C:3](/[C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])[O:6][H:7]>>[C:1]1([N:2]([H:8])[H:9])([O:6][H:7])[C:3]([H:10])=[C:4]([H:11])[C:5]1([H:12])[H:13],46.53163499997774
MR_695781_1,[C:1](=[C:2]([N:3]([H:10])[H:11])/[C:4](=[N:7]\[H:12])[H:13])([O:5][H:9])[O:6][H:8]>>[C:1]1([O:5][H:9])([O:6][H:8])[C:2]([N:3]([H:10])[H:11])=[C:4]([H:13])[N:7]1[H:12],38.64835250001335
MR_74730_0,[C:1](/[C:2]([N:3]([H:7])[H:8])=[C:4](/[C:5](=[C:6]([H:14])[H:15])[H:10])[H:9])([H:11])([H:12])[H:13]>>[C:1]([C@:2]1([N:3]([H:7])[H:8])[C:4]([H:9])=[C:5]([H:10])[C:6]1([H:14])[H:15])([H:11])([H:12])[H:13],43.58677750001142
MR_141754_2,[C:1]1([C:2]([H:13])([H:14])[H:15])([H:9])[C:4]([C:5]([C:3]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])([N:6]([H:10])[H:11])[N:8]1[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:4]([N:6]([H:10])[H:11])=[N:8]\[H:12])([C:5]([C:3]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])[H:9],66.36565500001694
MR_400616_1,[C:1]([C:2]([O:4][H:10])([O:6][H:11])[O:7][H:8])([O:3][H:9])=[O:5]>>[C:1]([C:2]([O:6][H:11])=[O:7])([O:3][H:9])([O:4][H:10])[O:5][H:8],40.82577750000894
MR_665845_1,[C:1]([N:4]([C:2]([H:13])([H:15])[H:16])[C:3]([H:14])([H:17])[H:18])([C:5]([N:6]([H:11])[H:12])=[O:8])([O:7][H:9])[H:10]>>[C:1]([C:5]([N:4]([C:2]([H:13])([H:15])[H:16])[C:3]([H:14])([H:17])[H:18])([N:6]([H:11])[H:12])[O:8][H:9])(=[O:7])[H:10],47.656742499990656
MR_105089_1,[C:1](/[C:4](=[C:3]([N:5]([H:10])[H:11])/[N:8]=[C:6](/[C:2]([H:16])([H:17])[H:18])[H:12])[O:7][H:9])([H:13])([H:14])[H:15]>>[C:1]([C:4]([C:3]1([N:5]([H:10])[H:11])[C:6]([C:2]([H:16])([H:17])[H:18])([H:12])[N:8]1[H:9])=[O:7])([H:13])([H:14])[H:15],48.07716750003493
MR_477241_0,[C:1]([C:4]([C:2]([H:15])([H:16])[H:17])(/[C:3]([N:5]([H:10])[H:11])=[N:6]/[H:12])[H:8])([O:7][H:9])([H:13])[H:14]>>[C:1]([C:4]([C:2]([H:15])([H:16])[H:17])=[C:3]([N:5]([H:10])[H:11])[N:6]([H:9])[H:12])([O:7][H:8])([H:13])[H:14],54.39232749999917
MR_122326_0,[C:1](/[C:3]([N:4]([H:9])[H:10])=[C:5]([C:2](\[O:6][H:8])=[N:7]/[H:11])/[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:3]1([N:4]([H:9])[H:10])[C:5]([H:12])=[C:2]([O:6][H:8])[N:7]1[H:11])([H:13])([H:14])[H:15],41.69988500001352
MR_21189_1,[C:1]([C:2]([H:10])([H:11])[H:12])([N:3]([H:7])[H:8])([C:4](=[O:5])[H:9])[H:6]>>[C:1]([C:2]([H:10])([H:11])[H:12])([N:3]([H:7])[H:8])([C:4](=[O:5])[H:6])[H:9],36.04485500002341
MR_621274_1,[C:1](/[C:3]([C:2]([N:4]([H:9])[H:10])=[C:6]([H:15])[H:16])=[C:5](\[O:7][H:8])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:3]1=[C:2]([N:4]([H:9])[H:10])[C:6]([H:15])([H:16])[C:5]1([O:7][H:8])[H:11])([H:12])([H:13])[H:14],33.932062500007305
MR_318845_1,[C:1]([C:3]([H:16])([H:17])[H:18])([O:6][C:2]([H:13])([H:14])[H:15])(/[N:8]=[C:4](\[N:5]([H:11])[H:12])[O:7][H:9])[H:10]>>[C:1](\[C:3]([H:16])([H:17])[H:18])(=[N:8]/[C:4]([N:5]([H:11])[H:12])([O:6][C:2]([H:13])([H:14])[H:15])[O:7][H:9])[H:10],52.05740000000887
MR_576395_1,[C:1](=[C:2](/[C:3](=[O:6])[H:10])[O:5][H:7])(\[O:4][H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:6])[H:10])=[O:5])([O:4][H:7])([H:8])[H:9],71.378752499987
MR_431930_1,[C:1]([C:3]([C:2]([H:11])([H:12])[H:13])=[O:7])([O:4][H:8])([O:5][H:9])[O:6][H:10]>>[C:1]([C:3]([C:2]([H:11])([H:12])[H:13])([O:6][H:10])[O:7][H:9])([O:4][H:8])=[O:5],34.43971000000971
MR_690905_0,[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([N:5]([O:7][H:8])[H:9])[O:6][C:2]([H:10])([H:11])[H:12]>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([N:5]([O:6][C:2]([H:10])([H:11])[H:12])[H:9])[O:7][H:8],68.8467899999948
